US09120773B2
In a stream of argon, 0.53 g (2.14 mmol) of 1-pyreneboronic acid, 1.00 g (2.14 mmol) of 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine and 24.7 mg (0.0214 mmol) of tetrakis(triphenylphosphine)palladium were suspended in a mixed solvent composed of 80 mL of toluene and 10 mL of ethanol, and the resultant suspension was heated to 60° C. To the suspension, 8.56 mL (8.56 mmol) of an aqueous 1M K2CO3 solution was gradually added dropwise, and the mixture was stirred for 3 hours. Then the mixture was cooled to room temperature, and 0.64 g (3.21 mmol) of 4-(2-pyridyl)phenylboronic acid wad added. Then the mixture was heated to 70° C. and maintained at that temperature for 3 hours while being stirred. Then the reaction mixture was cooled to room temperature, and was then distilled under a reduced pressure to remove all volatile materials. Methanol was added to the concentrate, and the thus-deposited solid was collected by filtration. The obtained crude product was purified by silica gel chromatography using a hexane/chloroform (1:2) mixed solvent as an eluent to give 0.37 g of the target 4,6-diphenyl-2-[5-(1-pyrenyl)-4′-(2-pyridyl)biphenyl-3-yl]-1,3,5-triazine as a white solid (yield: 26%).

reactant | 1-pyreneboronic acid | 2.14 mmol, 0.53 g | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)B(O)O | C16H11BO2
reactant | 2-(3,5-dibromophenyl)-4,6-diphenyl-1,3,5-triazine | 2.14 mmol, 1.00 g | BrC=1C=C(C=C(C1)Br)C1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H13Br2N3
reactant | K2CO3 | 1M | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(2-pyridyl)phenylboronic acid | 3.21 mmol, 0.64 g | N1=C(C=CC=C1)C1=CC=C(C=C1)B(O)O | C11H10BNO2
catalyst | tetrakis(triphenylphosphine)palladium | 0.0214 mmol, 24.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 4,6-diphenyl-2-[5-(1-pyrenyl)-4′-(2-pyridyl)biphenyl-3-yl]-1,3,5-triazine | yield: 26% | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=CC=C1)C=1C=C(C=C(C1)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C3=CC=C(C=C3)C3=NC=CC=C3 | C48H30N4
